US08283353B2
4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A solution of 1-benzyl-N-(1H-1,2,4-triazol-5-yl)-piperidine-4-amine (7.53 g) and ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (14.41 g) in 1,2,4-trichlorobenzene (20 mL) was stirred at 195° C. for 2 days. The reaction mixture was cooled to room temperature and purified by silica gel chromatography [eluent: hexane/ethyl acetate=65/35→50/50 (volume ratio)] to give the title compound (4.82 g, 30%) as a brown amorphous compound.

reactant | 1-benzyl-N-(1H-1,2,4-triazol-5-yl)-piperidine-4-amine | 7.53 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=NN1 | C14H19N5
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 14.41 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
solvent | 1,2,4-trichlorobenzene | 20 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 4.82 g, 30% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H34N6O
